US06262089B1
b) Mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-bis-(2-methoxyethyl)-hex-3-enedioic acid
To a stirred solution of 1.29 g (4.08 mmol) mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-bis-(2-methoxy-ethyl)-hex-3-enedioic acid diethyl ester in 10 ml THF was added 33 ml (33 mmol) of 1 M sodium hydroxide solution. After stirring for 18 h at room temperature, the reaction mixture was acidified to pH 3 by addition of 1 M hydrochloric acid and extracted three times with ethyl acetate. The combined organic phases were washed successively with water and with saturated brine, dried over sodium sulphate, and concentrated in vacuo to afford 894 mg (84%) of the title compound as a yellow oil. MS m/e (%): 259 ([M−H]−, 100).

reactant | (2RS,5SR)-2,5-bis-(2-methoxy-ethyl)-hex-3-enedioic acid diethyl ester | C(C)OC(C(C=CC(C(=O)OCC)CCOC)CCOC)=O | C16H28O6
reactant | sodium hydroxide | 33 mmol, 1 M, 33 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2RS,5SR)-2,5-bis-(2-methoxyethyl)-hex-3-enedioic acid | 894 mg, 84% | COCCC(C(=O)O)C=CC(C(=O)O)CCOC | C12H20O6
